US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-2-(3-trifluoromethylphenyl)acetamide (CJS 3736)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]-pyridin-2(3H)-one and 2-(3-trifluoromethylphenyl)-acetyl chloride to afford the title compound (30 mg, 33.3%). 1H-NMR (δ, ppm, DMSO-d6): 3.77 (s, 2H, CH2), 6.43 (d, 1H, HPy,5, J=5.9 Hz), 6.83-6.86 (m, 1H, Harom), 7.34-7.64 (m, 7H, Harom), 7.67 (s, 1H, Harom), 7.78 (d, 1H, HPy,6, J=5.9 Hz), 10.39 (s, 1H, NHamide), 11.21 (s, 1H, NHPy7), 11.42 (s, 1H, NHPy9). LC-MS, tR=4.56 minutes, m/z: 429.05 (M+H)+, calculated for C21H16N4O3F3. HRMS (EI): m/z [M+H] calculated for C21H16N3O4F3: 429.1175; found: 429.1175.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]-pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 2-(3-trifluoromethylphenyl)-acetyl chloride | FC(C=1C=C(C=CC1)CC(=O)Cl)(F)F | C9H6ClF3O
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-2-(3-trifluoromethylphenyl)acetamide | 30 mg, 33.3% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(CC2=CC(=CC=C2)C(F)(F)F)=O)N1 | C21H15F3N4O3
